US06034099
From the reaction of N,N-diethyl-4-hydrazinobenzenesulfonamide and ethylacetoacetate gives N,N diethyl-4-(4,5-dihydro-3-methyl-5-oxo-1H-pyrazol-1-yl)-benzenesulfonamide. Subsequent reaction wvith 2-ethoxyaniline yields N,N-diethyl4-(4,5-dihydro-4-(2-ethoxyanilinomethylene)-3-methyl-5-oxo-1H-pyrazol-1-yl)-benzenesulfonamide, Mp: 170° C.

reactant | N,N-diethyl-4-hydrazinobenzenesulfonamide | C(C)N(S(=O)(=O)C1=CC=C(C=C1)NN)CC | C10H17N3O2S
reactant | ethylacetoacetate | C(C)OC(CC(=O)C)=O | C6H10O3
product | N,N diethyl-4-(4,5-dihydro-3-methyl-5-oxo-1H-pyrazol-1-yl)-benzenesulfonamide | C(C)N(S(=O)(=O)C1=CC=C(C=C1)N1N=C(CC1=O)C)CC | C14H19N3O3S
